US07166598B2
A solution of 1-acetyl-3-[[3-[(2-methoxyethoxy)methoxy]-4-methylphenyl]methylene]-2,5-piperazinedione (2.0 g) in tetrahydrofuran (20 ml) was hydrogenated over 10% palladium-carbon (50% wet, 0.2 g) at room temperature under atmospheric pressure for 3 hours. After removal of the catalyst by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was dissolved into tetrahydrofuran (30 ml) and thereto was added hydrazine monohydride (1.5 ml). After being stirred for 1 hour at room temperature, the mixture was concentrated under reduced pressure. The residue was triturated with isopropyl alcohol and the resulting solid was collected by filtration to give 3-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-2,5-piperazinedione (1.75 g).

reactant | 1-acetyl-3-[[3-[(2-methoxyethoxy)methoxy]-4-methylphenyl]methylene]-2,5-piperazinedione | 2.0 g | C(C)(=O)N1C(C(NC(C1)=O)=CC1=CC(=C(C=C1)C)OCOCCOC)=O | C18H22N2O6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 3-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]-2,5-piperazinedione | 1.75 g | COCCOCOC=1C=C(CC2C(NCC(N2)=O)=O)C=CC1C | C16H22N2O5
